US05914351
A reaction mixture of N-[4-chloro-3-[dimethylhydrazono)methyl]phenyl]-2-methyl 3-furancarboxamide (1 g), sodium bicarbonate (1.8 g) and Lawesson's reagent (0.9 g) in toluene (20 mL) was refluxed for 3 hours. The reaction mixture was then cooled and filtered through a plug of neutral aluminum oxide and eluted with ether. Evaporation of the solvent produced 0.6 g of N-[4-chloro-3-[dimethylhydrazono)methyl]phenyl]-2-methyl-3-furancarbothioamide, m.p. 90-92° C.

reactant | 2-methyl 3-furancarboxamide | 1 g | CC=1OC=CC1C(=O)N | C6H7NO2
reactant | sodium bicarbonate | 1.8 g | C([O-])(O)=O.[Na+]
reactant | Lawesson's reagent | 0.9 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-3-furancarbothioamide | CC=1OC=CC1C(N)=S | C6H7NOS
